US04292449
A suspension of potassium fluoride (5.80 g, 0.10 mol) and diglyme (100 ml) was stirred at 20° C. in a cooling bath while chlorpentafluoroacetone (18.3 g, 0.10 mol) was distilled in. After the potassium fluoride had dissolved, perfluoroallyl fluorosulfate (23.0 g, 0.10 mol) was added rapidly with cooling of the reaction mixture. The resulting exothermic reaction was accompanied by the precipitation of solid. The mixture was stirred at 25° C. for one hour, and then the volatile components were transferred to a trap cooled to -80° C. by heating the reaction mixture at 42` C. (5 mm Hg). The volatile product was distilled from phosphorus pentoxide to give 1-(1,1,1,2,3,3-hexafluoro-3-chloro-2-propoxy)-pentafluoro-2-propene, (19.6 g, 0.059 mol, 59%)pb 85°-86° C. which was characterized by: λmax 5.55 (CF=CF2) and 7-10 μm (CF, C--O); 19F NMR, -68.6 (m) 2F, CF2Cl, -69.1 (m) 2F, CF2O, -78.8 (m) 3F, CF3, -93.2 (d J=54.7 Hz, each member d J=39.8 Hz, t J=7.5 Hz), 1F, cis--CF2 -CF=CF, -105.9 (d J=116.7 Hz, each member, d J=54.7 Hz, t J=24.0 Hz) 1F, trans-CF2 -CF=CF, -141.2 (t J=22.8 Hz, each member m) 1F, CF, and -190.4 ppm (d J=116.7 Hz, each member d J=39.8 Hz, t J=13.4 Hz) 1F, --CF2CF=C.

reactant | potassium fluoride | 0.10 mol, 5.80 g | [F-].[K+]
reactant | chlorpentafluoroacetone | 0.10 mol, 18.3 g | ClC(C(=O)C(F)(F)F)(F)F | C3ClF5O
reactant | perfluoroallyl fluorosulfate | 0.10 mol, 23.0 g | S(=O)(=O)(OC(C(=C(F)F)F)(F)F)F | C3F6O3S
solvent | diglyme | 100 ml | COCCOCCOC | C6H14O3
product | 1-(1,1,1,2,3,3-hexafluoro-3-chloro-2-propoxy)-pentafluoro-2-propene | 0.059 mol, 19.6 g, 59% | FC(C(C(Cl)(F)F)(OC(C(=C(F)F)F)(F)F)F)(F)F | C6ClF11O
